US07728142B2
6-Bromo-2-methyl-4H-3,1-benzoxazin-4-one
2-Amino-5-bromobenzoic acid (25 g, 116 mmol) was added in portions to acetic anhydride (150 mL) giving a slightly exothermic reaction to 30° C. The suspension was heated at reflux for 2 h. The product crystallized spontaneously upon cooling. After stirring in ice for 30 min, the crystals were filtered off and washed twice with heptane. The crystals were thoroughly dried at 0.1 mbar/50° C. One obtained 22.4 g (85%) of beige crystals. MS: m/z=239/241 (M).

reactant | 2-Amino-5-bromobenzoic acid | 116 mmol, 25 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Bromo-2-methyl-4H-3,1-benzoxazin-4-one | 22.4 g, 85% | BrC=1C=CC2=C(C(OC(=N2)C)=O)C1 | C9H6BrNO2
